US07906652B2
To a solution of 27.15 g (51.64 mmol) of methyl (3-bromo-5-fluorophenyl){1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-ylidene}acetate in 120 mL of THF and 220 mL of MeOH, were added small portions of sodium borohydride (total: 740 mg, 31.05 mmol) at −5-0° C. The mixture stirred at −5-0° C. and the reaction was followed by HPLC. Then the reaction was quenched with 2N HCl at 0° C. (to pH=7-7.5) and concentrated to remove the organic solvents. The residue was dissolved in 300 mL of CH2Cl2 and 300 mL water, and the layers were separated. The aqueous layer was extracted with CH2Cl2 (100 mL×2). The combined organic layer was dried over Na2SO4 and concentrated. The residue was separated by silica gel chromatography with cyclohexane/ethyl acetate to afford the methyl (2S)-(3-bromo-5-fluorophenyl){1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}acetate; 1H-NMR(CDCl3) δ 2.66(t, 1H, J=6.2 Hz), 2.92(dd, 1H, J1=7.5 Hz, J2=5.7 Hz), 3.08-3.16(m, 2H), 3.41(t, 1H, J=7.2 Hz), 3.69(s, 3H), 3.83(d, 1H, J=10.7 Hz), 4.34(s, 1H), 6.96 (d, 1H, J=8.9 Hz), 7.17(d, 1H, J=8.0 Hz), 7.20 (d, 1H, J=12 Hz), 7.27-7.32 (m, 5H), 7.39 (t, 1H, J=7.6 Hz), 7.50 (d, 1H, J=7.5 Hz), 7.60 (d, 1H, J=7.5 Hz), 7.70 (s, 1H); Mass Spectrum: m/e=527(M+1, 35Cl79Br), 529 (M+1, 37Cl79Br/35Cl81Br), 531 (M+1, 37Cl81Br).

reactant | methyl (3-bromo-5-fluorophenyl){1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-ylidene}acetate | 51.64 mmol, 27.15 g | BrC=1C=C(C=C(C1)F)C(C(=O)OC)=C1CN(C1)[C@H](C1=CC(=CC=C1)C#N)C1=CC=C(C=C1)Cl | C26H19BrClFN2O2
reactant | sodium borohydride | 31.05 mmol, 740 mg | [BH4-].[Na+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | MeOH | 220 mL | CO | CH4O
product | methyl (2S)-(3-bromo-5-fluorophenyl){1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}acetate | BrC=1C=C(C=C(C1)F)[C@@H](C(=O)OC)C1CN(C1)[C@H](C1=CC(=CC=C1)C#N)C1=CC=C(C=C1)Cl | C26H21BrClFN2O2
